US05420129
10.7 g of 4-[4-chloro-5-(2-chloro-5-methoxy-phenoxy)-6-methyl-pyrimidin-2-yl]-morpholine and 21.6g of p-t-butyl-benzene sulphonamide potassium in 150 ml of dry dimethyl sulphoxide were heated to 120° C. under argon for 16 hours. Thereafter, the dimethylsulphoxide was distilled off, the residue was partitioned between ethyl acetate and 1N hydrochloric acid and the organic phase was washed neutral. The organic phase was dried, the solvent was evaporated and the residue was recrystallized from dichloromethane-ethanol. There were obtained 14.7 g 4-tert-butyl-N-[5-(2-chloro-5-methoxy-phenoxy)-6-methyl-2-(morpholin-4-yl)-pyrimidin-4-yl]-benzenesulphonamide, m.p 154° C., MS: M=546.

reactant | 4-[4-chloro-5-(2-chloro-5-methoxy-phenoxy)-6-methyl-pyrimidin-2-yl]-morpholine | 10.7 g | ClC1=NC(=NC(=C1OC1=C(C=CC(=C1)OC)Cl)C)N1CCOCC1 | C16H17Cl2N3O3
reactant | p-t-butyl-benzene sulphonamide potassium | 21.6g | [K].C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)N
solvent | dimethyl sulphoxide | 150 ml | CS(=O)C | C2H6OS
product | 4-tert-butyl-N-[5-(2-chloro-5-methoxy-phenoxy)-6-methyl-2-(morpholin-4-yl)-pyrimidin-4-yl]-benzenesulphonamide | 14.7 g | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC(=NC(=C1OC1=C(C=CC(=C1)OC)Cl)C)N1CCOCC1 | C26H31ClN4O5S
